US08252935B2
b) 2-[5-(1-Benzo [1,2,3]thiadiazol-6-ylmethyl-piperidin-3-yl)-4′-trifluoromethyl-biphenyl-3-yl]-4-methyl-pentanoic acid
To compound 49a, 2-[5-(1-Benzo[1,2,3]thiadiazol-6-ylmethyl-piperidin-3-yl)-4′-trifluoromethyl-biphenyl-3-yl]-4-methyl-pentanoic acid ethyl ester (67.0 mg, 0.11 mmol) in EtOH (5.0 ml) was added 2M KOH (0.56 ml, 1.1 mmol). The reaction was heated to 78° C. for 3 hour, cooled to room temperature, and concentrated in vacuo. Purification via Gilson HPLC, salt exchange with 1N HCl (aqueous) gave the product as a white lyophilate, (46 mg, 68%). 1H NMR (400 MHz, MeOD) δ ppm 0.89-0.96 (m, 6 H) 1.44-1.55 (m, 1 H) 1.63-1.71 (m, 1 H) 1.92-2.04 (m, 3 H) 2.13 (s, 2 H) 3.12-3/23 (m, 2 H) 3.32-3.39 (m, 1 H) 3.60-3.67 (m, 2 H) 3.76 (t, J=7.83 Hz, 1 H) 4.62-4.71 (m, 2 H) 7.33 (s, 1 H) 7.51 (s, 1 H) 7.57 (s, 1 H) 7.73-7.82 (m, 4 H) 7.90-7.96 (m, 1 H) 8.40 (d, J=8.31 Hz, 1 H) 8.87 (s, 1 H) Calcd for C31H32F3N3O2S (M+H) 567.67, Found 568.3.

reactant | 2-[5-(1-Benzo[1,2,3]thiadiazol-6-ylmethyl-piperidin-3-yl)-4′-trifluoromethyl-biphenyl-3-yl]-4-methyl-pentanoic acid ethyl ester | 0.11 mmol, 67.0 mg | C(C)OC(C(CC(C)C)C=1C=C(C=C(C1)C1CN(CCC1)CC1=CC2=C(N=NS2)C=C1)C1=CC=C(C=C1)C(F)(F)F)=O | C33H36F3N3O2S
reactant | KOH | 1.1 mmol, 2M, 0.56 ml | [OH-].[K+]
solvent | EtOH | 5.0 ml | CCO | C2H6O
product | 2-[5-(1-Benzo [1,2,3]thiadiazol-6-ylmethyl-piperidin-3-yl)-4′-trifluoromethyl-biphenyl-3-yl]-4-methyl-pentanoic acid | S1N=NC2=C1C=C(C=C2)CN2CC(CCC2)C=2C=C(C=C(C2)C2=CC=C(C=C2)C(F)(F)F)C(C(=O)O)CC(C)C | C31H32F3N3O2S
